US06825383B1
Preparation of 2-nitro-4-chloroanisole
2-Nitroanisole (1 mmol) was treated with sodium chloride (1.2 mmol) in acetonitrile: water (2:1, 6 ml). 20% Sulfuric acid (5 ml) and sodium periodate (20 mol %) was added to the reaction mixture. The mixture was heated at 80° C. under inert atmosphere for 4 h. The product was purified by column chromatography to give 2-nitro-4-chloroanosole (55%).

reactant | 2-Nitroanisole | 1 mmol | [N+](=O)([O-])C1=C(C=CC=C1)OC | C7H7NO3
reactant | sodium chloride | 1.2 mmol | [Cl-].[Na+]
reactant | Sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetonitrile water | 6 ml | C(C)#N.O
product | 2-nitro-4-chloroanisole | [N+](=O)([O-])C1=C(C=CC(=C1)Cl)OC | C7H6ClNO3
